US07256219B2
1-[2,5-Bis(2,2,2-trifluoroethoxy)phenyl]-3-[4-(trifluoromethyl)phenyl]-2-propen-1-one
The title compound was prepared by heating a mixture of 2,5-bis(2,2,2-trifluoroethoxy)acetophenone (200 mg, 0.633 mmol) and α,α,α-trifluoro-p-tolualdehyde (86 ul, 0.633 mmol) similar to Example 1 and isolated as a yellow solid (60.1 mg, 12.7%). 1H NMR (CDCl3): 7.70 (d, J=15.6 Hz, 1H), 7.67 (q, J=8.6, 14.9 Hz, 4H), 7.55 (d, J=15.6 Hz, 1H), 7.33 (d, J=3.3 Hz, 1H), 7.15 (dd, J=3.3, 9.0 Hz, 1H), 6.95 (d, J=9.0 Hz, 1H), 4.46-4.34 (m, 4H).

reactant | 2,5-bis(2,2,2-trifluoroethoxy)acetophenone | 0.633 mmol, 200 mg | CC(=O)C1=C(C=CC(=C1)OCC(F)(F)F)OCC(F)(F)F | C12H10F6O3
reactant | α,α,α-trifluoro-p-tolualdehyde | 0.633 mmol, 86 ul | FC(C1=CC=C(C=C1)C=O)(F)F | C8H5F3O
product | 1-[2,5-Bis(2,2,2-trifluoroethoxy)phenyl]-3-[4-(trifluoromethyl)phenyl]-2-propen-1-one | FC(COC1=C(C=C(C=C1)OCC(F)(F)F)C(C=CC1=CC=C(C=C1)C(F)(F)F)=O)(F)F | C20H13F9O3
